US06436915B1
Synthesis of 3,5-Diamino-4-[(2-benzenesulfonylphenyl)hydrazono]pyrazole
This compound was prepared using 94 mg (0.5 mmol) of 2-[(2-benzenesulfonylphenyl)-hydrazono]malononitrile, which was derived from 2-(phenylsulfonyl)aniline (233 mg, 1.0 mmol) and malononitrile (1.5 mmol) as described in Example 8, and hydrazine hydrate. Precipitate formed in the reaction tube approximately 20 min after the addition of hydrazine hydrate. The resulting solid was isolated by filtration, washed with ethanol, and dried to yield 68 mg (20%) of the title compound as an orange coloured solid.

reactant | 2-[(2-benzenesulfonylphenyl)-hydrazono]malononitrile | 0.5 mmol, 94 mg | C1(=CC=CC=C1)S(=O)(=O)C1=C(C=CC=C1)NN=C(C#N)C#N | C15H10N4O2S
reactant | 2-(phenylsulfonyl)aniline | 1.0 mmol, 233 mg | C1(=CC=CC=C1)S(=O)(=O)C1=C(N)C=CC=C1 | C12H11NO2S
reactant | malononitrile | 1.5 mmol | C(CC#N)#N | C3H2N2
reactant | hydrazine hydrate | O.NN
product | 3,5-Diamino-4-[(2-benzenesulfonylphenyl)hydrazono]pyrazole | 68 mg, 20% | NC1=NN=C(C1=NNC1=C(C=CC=C1)S(=O)(=O)C1=CC=CC=C1)N | C15H14N6O2S
